US06982348B2
To a solution of ethyl 3-(3,4-difluorophenyl)-3-oxopropionate (9 g, 39.4 mmol) in 1,2-dimethoxyethane (50 ml) was added sodium hydride (60% in oil, 1.58 g, 39.4 mmol) under ice-cooling and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 4-trifluoromethylbenzyl bromide (9.43 g, 39.4 mmol) in 1,2-dimethoxyethane (50 ml) and the reaction solution was stirred at room temperature for 3 hrs. The reaction solution was poured into water (200 ml) and extracted with ethyl acetate (200ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (toluene:hexane=1:1) and recrystallized from diisopropyl ether-hexane to give ethyl 3-(3,4-difluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate (10.9 g, 71%).

reactant | ethyl 3-(3,4-difluorophenyl)-3-oxopropionate | 39.4 mmol, 9 g | FC=1C=C(C=CC1F)C(CC(=O)OCC)=O | C11H10F2O3
reactant | sodium hydride | 39.4 mmol, 1.58 g | [H-].[Na+]
reactant | 4-trifluoromethylbenzyl bromide | 39.4 mmol, 9.43 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | water | 200 ml | O | H2O
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-(3,4-difluorophenyl)-3-oxo-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 10.9 g, 71% | FC=1C=C(C=CC1F)C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H15F5O3
